US06919315B1
N-tert-Butoxycarbonylprolin (24.38 g, 113 mmol) was dissolved in dichloromethane (60 ml). Ethanol (7.9 ml, 135 mmol) and 4-dimethylaminopyridine (1.52 g, 12.5 mmol) were added. The solution was cooled to 0° C. N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (23.88 g, 125 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. Ethyl acetate (400 ml) was added. It was washed with a 10% aqueous solution of sodium hydrogen sulfate (300 ml). The aqueous phase was extracted with ethyl acetate (3×200 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (300 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (400 g), using ethyl acetate (1:4) as eluent, to give 17.11 g of (2S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester.

reactant | N-tert-Butoxycarbonylprolin | 113 mmol, 24.38 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | Ethanol | 135 mmol, 7.9 ml | C(C)O | C2H6O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 125 mmol, 23.88 g | Cl.CN(CCCN=C=NCC)C
reactant | Ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 12.5 mmol, 1.52 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 17.11 g | CCOC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C12H21NO4
